data/oMe_Silver.jsonl
{"reaction_id": "NR-104_1-c1ccc(Cl)cc1","level": "medium","name": "Hell-Volhard-Zelinsky Reaction","reactants_smiles": ["C(c1ccc(Cl)cc1)C(=O)O","P","BrBr"],"products_smiles": ["C(c1ccc(Cl)cc1)(Br)C(=O)Br"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(c1ccc(Cl)cc1)C(=[O])[OH+]P(Br)Br","step_weight": 0,"rationale": "PBr3 activates the carboxylic acid by converting the OH into a better leaving group via formation of a phosphonium intermediate, driven by the strong P–O bond formation and good leaving ability of bromophosphates."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c1ccc(Cl)cc1)C(=O)Br","step_weight": 0,"rationale": "Bromide ion displaces the activated leaving group in an SN2-like process, favored by the electrophilic carbonyl carbon and the excellent leaving group ability of the phosphonium ester."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(Cl)cc1)=C([OH])Br","step_weight": 0,"rationale": "Base-induced deprotonation at the α-position forms the enol, stabilized by resonance with the adjacent carbonyl, making the α-carbon nucleophilic for subsequent electrophilic attack."},{"step": 4,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(c1ccc(Cl)cc1)(Br)C(=[OH+])Br","step_weight": 0,"rationale": "The electron-rich enol double bond attacks molecular bromine, with electrophilic bromination favored at the α-carbon due to resonance stabilization of the resulting carbocation intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(Cl)cc1)(Br)C(=O)Br","step_weight": 0,"rationale": "Proton transfer restores the carbonyl from the enol, driven by the thermodynamic stability of the C=O bond over the C–OH form."}],"description": "In the Hell–Volhard–Zelinsky reaction, the carboxylic acid is first converted to an acyl bromide via phosphorus tribromide, enabling α-bromination through enol formation and electrophilic bromination. Subsequent tautomerization regenerates the carbonyl, yielding the α-bromoacyl bromide product efficiently."}
{"reaction_id": "NR-122_1-S(=O)(=O)C_2-C(=O)OCC_3-C1CCCCC1_4-C(C)C","name": "Knoevenagel Condensation","level": "medium","reactants_smiles": ["C(=O)(C1CCCCC1)C(C)C","C(S(=O)(=O)C)C(=O)OCC"],"products_smiles": ["C(=C(S(=O)(=O)C)C(=O)OCC)(C1CCCCC1)C(C)C"],"conditions": "C1CCNCC1","mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=[N+]1CCCCC1)(C1CCCCC1)C(C)C","rationale": "Piperidine attacks the carbonyl carbon, forming an iminium ion; the nitrogen lone pair facilitates electrophilic activation by increasing carbonyl carbon's partial positive charge through resonance and inductive effects."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH-](S(=O)(=O)C)C(=O)OCC","rationale": "The basic nitrogen abstracts an acidic α-proton from S(=O)(=O)C–C(=O)OCC methylene, stabilized by resonance with adjacent electron-withdrawing groups, generating a nucleophilic carbanion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(N1CCCCC1)(C1CCCCC1)C(C)C)(S(=O)(=O)C)C(=O)OCC","rationale": "The resonance-stabilized carbanion attacks the iminium carbon, favored by strong electrophilicity from the positively charged nitrogen and minimal steric hindrance at the reaction site."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C(N1CCCCC1)(C1CCCCC1)C(C)C)(S(=O)(=O)C)C(=O)OCC","rationale": "Proton transfer regenerates the neutral amine and positions the intermediate for elimination, driven by the stability of the conjugated alkene product."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(S(=O)(=O)C)C(=O)OCC)(C1CCCCC1)C(C)C","rationale": "Elimination of piperidine occurs as the leaving group is stabilized by its basicity and the formation of a conjugated C=C bond provides thermodynamic driving force."}],"description": "In the piperidine-catalyzed Knoevenagel condensation, the amine activates the carbonyl via iminium formation, while also deprotonating the active methylene compound to generate a nucleophile. Nucleophilic addition to the activated carbonyl is followed by proton transfers and elimination to yield the conjugated alkene."}
